US06451821B1
A solution of 7.2 g of N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)ethyl]thiourea in 20 cm3 of 5N hydrochloric acid is heated at a temperature in the region of 110° C. for 20 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 55° C. and then taken up in ethanol and concentrated under the same conditions as above. The residue is chromatographed at atmospheric pressure on a column of silica gel (particle size 40-60 diameter 4 cm; height 30 cm), eluting with an acetic acid/water/ethyl acetate mixture (1/1/4 by volume). The fractions containing the expected product are combined and then concentrated under the above conditions. The oil obtained is taken up in ethanol and the precipitate obtained is filtered off and then dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. to give 2.9 g of (4RS)-4-(2-pyrazinylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride in the form of a brown solid melting at 190° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm) 3.23 (d, J=6 Hz: 2H); 3.43 (dd, J=11.5 and 5.5 Hz: 1H); 3.72 (dd, J=11.5 and 7.5 Hz: 1H); 4.74 (mt: 1H); 8.59 (broad s: 1H); 8.64 (broad s: 1H); 8.67 (broad s: 1H); 9.29 (unresolved complex: 1H); 9.77 (unresolved complex: 1H); 10.16 (broad s: 1H)].

reactant | N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)ethyl]thiourea | 7.2 g | C(C)(C)(C)NC(=S)NC(CC1=NC=CN=C1)CO | C12H20N4OS
reactant | hydrochloric acid | 5N, 20 cm3 | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (4RS)-4-(2-pyrazinylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride | 2.9 g | Cl.Cl.N1=C(C=NC=C1)CC1N=C(SC1)N | InChI=1S/C8H10N4S.2ClH/c9-8-12-7(5-13-8)3-6-4-10-1-2-11-6;;/h1-2,4,7H,3,5H2,(H2,9,12);2*1H
